US05134152
(2R*,3S*,4R*)-2-(4-Chlorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
38 mg (0.950 mmole) of sodium hydride (as a 60% w/w dispersion in mineral oil) were added at 0° C. to a suspension of 107 mg (0.351 mmole) of 2-(4-chlorophenyl)-3,4-dimethyl-2-methanesulfonyloxymethyloxetane, 51.5 mg (0.746 mmole) of 1H-1,2,4-triazole and 45.6 mg (0.304 mmole) of sodium iodide in 10 ml of dimethylimidazolidinone, and the mixture was stirred at room temperature for 30 minutes and then at 90° C. for a further 12 hours. At the end of this time, an aqueous solution of sodium thiosulfate was added to the resulting mixture, which was then extracted with a 1:1 by volume mixture of ethyl acetate and hexane. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography through silica gel, eluted with a 1:1 by volume mixture of hexane and ethyl acetate, to afford 76.3 mg (yield 78%) of the title compound.

reactant | sodium hydride | 0.950 mmole, 38 mg | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-3,4-dimethyl-2-methanesulfonyloxymethyloxetane | 0.351 mmole, 107 mg | ClC1=CC=C(C=C1)C1(OC(C1C)C)COS(=O)(=O)C | C13H17ClO4S
reactant | 1H-1,2,4-triazole | 0.746 mmole, 51.5 mg | N1N=CN=C1 | C2H3N3
reactant | sodium iodide | 0.304 mmole, 45.6 mg | [I-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylimidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | (2R*,3S*,4R*)-2-(4-Chlorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | 76.3 mg, yield 78% | ClC1=CC=C(C=C1)[C@@]1(O[C@@H]([C@@H]1C)C)CN1N=CN=C1 | C14H16ClN3O
